US08048909B2
Ethyl 5-bromo-4-methyl-1H-pyrrole-3-carboxylate
Using ethyl 4-methyl-1H-pyrrole-3-carboxylate (4.50 g) and N-bromosuccinimide (5.2 g), a procedure as in Reference Example 40 was performed to give the title compound as a pale-yellow solid (yield 5.20 g, 76%).

reactant | ethyl 4-methyl-1H-pyrrole-3-carboxylate | 4.50 g | CC=1C(=CNC1)C(=O)OCC | C8H11NO2
reactant | N-bromosuccinimide | 5.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | Ethyl 5-bromo-4-methyl-1H-pyrrole-3-carboxylate | yield 5.20 g, 76% | BrC1=C(C(=CN1)C(=O)OCC)C | C8H10BrNO2
